US05994394
Following the procedure for preparing 2-(diethoxymethyl)-5-(tributylstannyl)-thiophene as described in step (1) of Example 1, 17 g (10 mmol) of 2-(diethoxymethyl)furan was converted to 32.6 g (82% yield) of 2-(diethoxymethyl)-5-(tributylstannyl) furan (bp 110° C., 1 torr).

reactant | 2-(diethoxymethyl)-5-(tributylstannyl)-thiophene | C(C)OC(C=1SC(=CC1)[Sn](CCCC)(CCCC)CCCC)OCC
reactant | 2-(diethoxymethyl)furan | 10 mmol, 17 g | C(C)OC(C=1OC=CC1)OCC | C9H14O3
product | 2-(diethoxymethyl)-5-(tributylstannyl) furan | 32.6 g, 82% yield | C(C)OC(C=1OC(=CC1)[Sn](CCCC)(CCCC)CCCC)OCC | InChI=1S/C9H13O3.3C4H9.Sn/c1-3-10-9(11-4-2)8-6-5-7-12-8;3*1-3-4-2;/h5-6,9H,3-4H2,1-2H3;3*1,3-4H2,2H3;
